US09359345B2
Step 4: Preparation of 1,3-dihydro-isoindole-2-carboxylic acid {(R)-1-[4-carbamoyl-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-amide
To a solution of give 1,3-dihydro-isoindole-2-carboxylic acid {(R)-1-[4-cyano-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-amide (11.3 mg, 25.4 μmol) in 10:1 v/v tetrahydrofuran/water (2.75 mL total volume) was added hydrido(dimethylphosphinous acid-kP)[hydrogen bis(dimethylphosphnito-kP]platinum (II) (CAS number 173416-05-2) (1.1 mg, 2.5 μmol) and the mixture was heated to reflux under argon. After 8 hours LC/MS indicated approximately ˜30% conversion to a single main product which exhibited the molecular ion for the expected product. The reaction mixture was transferred to a resealable tube, an additional aliquot of hydrido(dimethylphosphinous acid-kP)[hydrogen bis-(dimethylphosphnito-kP]platinum (II) (1 mg, 2.3 μmol) was added and the tube heated to 80° C. overnight. LC-MS indicated the expected product as the major component present in the reaction mixture but with some starting material still present. An additional aliquot of hydrido(dimethylphosphinous acid-kP)[hydrogen bis(dimethylphosphnito-kP]platinum (II) (1 mg, 2.3 μmol) was added and the reaction vessel heated at 100° C. for 3.5 hours. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was purified by reverse phase chromatography using a C-18 column gradient eluted from 10% up to 100% acetonitrile in water. The product containing fractions were combined and concentrated in vacuo to give partially purified 1,3-dihydro-isoindole-2-carboxylic acid {(R)-1-[4-carbamoyl-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-amide as a yellow solid. Purified further by reverse phase HPLC using a C-18 column gradient eluted from 30% to 100% acetonitrile in water to remove a close running impurity. The product containing fractions were combined and concentrated in vacuo and the residue lyophilized from acetonitrile/water to obtain 1,3-dihydro-isoindole-2-carboxylic acid {(R)-1-[4-carbamoyl-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-amide as a pale yellow solid (2.1 mg, 18%).

reactant | 1,3-dihydro-isoindole-2-carboxylic acid {(R)-1-[4-cyano-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-amide | 25.4 μmol, 11.3 mg | C(#N)C=1N=C(SC1NC1=NC=CC=C1)N1C[C@@H](CCC1)NC(=O)N1CC2=CC=CC=C2C1 | C23H23N7OS
reactant | tetrahydrofuran water | 2.75 mL | O1CCCC1.O
product | 1,3-dihydro-isoindole-2-carboxylic acid {(R)-1-[4-carbamoyl-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-amide | C(N)(=O)C=1N=C(SC1NC1=NC=CC=C1)N1C[C@@H](CCC1)NC(=O)N1CC2=CC=CC=C2C1 | C23H25N7O2S
